US05654307
4-(3-Bromoanilino)-6-fluoropyrido[3,2-d)pyrimidine.
A solution of 4-chloro-6-fluoropyrido[3,2-d]pyrimidine (0.20 g, 1.1 mmol) and 3-bromoaniline (0.12 mL, 2.18 mmol) in propan-2-ol (20 mL) containing conc. HCl (1 drop) is heated under reflux for 15 min, then cooled, poured into water and extracted with EtOAc. The extract is worked up, and the residue chromatographed on silica gel, eluting with EtOAc/petroleum ether (1:2)to give after removal of the solvent under reduced pressure 4-(3-bromoanilino)-6-fluoropyrido[3,2-d)pyrimidine (0.18 g, 52%). 1H NMR (CDCl3) δ 8.82 (1H, s), 8.65 (1H, brs), 8.31 (1H, t, J=7.4 Hz), 8.27 (1H, brs), 7.77 (1H, m) 7.41 (1H, dd, J=8.9, 2.2 Hz), 7.29 (2H, brs).

reactant | 4-chloro-6-fluoropyrido[3,2-d]pyrimidine | 1.1 mmol, 0.20 g | ClC=1C2=C(N=CN1)C=CC(=N2)F | C7H3ClFN3
reactant | 3-bromoaniline | 2.18 mmol, 0.12 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | water | O | H2O
solvent | propan-2-ol | 20 mL | CC(C)O | C3H8O
catalyst | HCl | 1 drop | Cl | ClH
product | 4-(3-Bromoanilino)-6-fluoropyrido[3,2-d)pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)C=CC(=N3)F)C=CC1 | C13H8BrFN4
